US05232931
4.10 g of 5-(2-methanesulfonyloxyethyl)-3-p-methoxyphenyloxazolidin-2-one [m.p. 61°-64°; obtainable by reaction of 3,4-epoxy-1-butanol with N-benzyl-p-methoxyaniline to give 1-(N-benzyl-p-methoxyanilino)butane-2,4-diol (resin), hydrogenolysis to give 1-p-methoxyanilinobutane-2,4-diol (resin), reaction with diethyl carbonate to give 5-(2-hydroxyethyl)-3-p-methoxyphenyloxazolidin-2-one (m.p. 77°-78°) and reaction with CH3SO2Cl] are boiled together with 3.13 g of 4-hydroxy-4-(3,4-methylenedioxyphenyl)piperidine ("M"), 2.16 g of potassium iodide and 1.8 g of potassium carbonate in 100 ml of acetonitrile for 16 hours, the mixture is cooled, worked up as usual, to give 5-[2-(4-hydroxy-4-(3,4-methylenedioxyphenyl)piperidino)ethyl]-3-p-methoxyphenyloxazolidin-2-one, m.p. 128°-130°.

reactant | 5-(2-methanesulfonyloxyethyl)-3-p-methoxyphenyloxazolidin-2-one | 4.10 g | CS(=O)(=O)OCCC1CN(C(O1)=O)C1=CC=C(C=C1)OC | C13H17NO6S
reactant | 4-hydroxy-4-(3,4-methylenedioxyphenyl)piperidine | 3.13 g | OC1(CCNCC1)C1=CC2=C(C=C1)OCO2 | C12H15NO3
reactant | potassium iodide | 2.16 g | [I-].[K+]
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-[2-(4-hydroxy-4-(3,4-methylenedioxyphenyl)piperidino)ethyl]-3-p-methoxyphenyloxazolidin-2-one | OC1(CCN(CC1)CCC1CN(C(O1)=O)C1=CC=C(C=C1)OC)C1=CC2=C(C=C1)OCO2 | C24H28N2O6
